US09388147B2
A stirred solution of (R)-methyl 2-hydroxypropanoate (1.0 g, 9.61 mmol) in toluene (15 mL) was cooled to 0° C. Methanesulfonyl chloride (0.82 mL, 10.6 mmol) was added drop wise. After 2 h, the solution was warmed to room temperature and further stirred for 45 min. The resulting heavy white precipitate was removed by vacuum filtration and the clear solution was concentrated to provide 1.75 g (99%) of (R)-methyl 2-((methylsulfonyl)oxy)propanoate as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 5.14 (q, J=7.0 Hz, 1H), 3.81 (d, J=4.5 Hz, 3H), 3.16 (d, J=4.5 Hz, 3H), 1.62 (d, J=7.0 Hz, 3H). (S)-methyl 2-((methylsulfonyl)oxy)propanoate was prepared in an analogous fashion using (S)-methyl 2-hydroxypropanoate.

reactant | (R)-methyl 2-hydroxypropanoate | 9.61 mmol, 1.0 g | O[C@@H](C(=O)OC)C | C4H8O3
reactant | Methanesulfonyl chloride | 10.6 mmol, 0.82 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-methyl 2-((methylsulfonyl)oxy)propanoate | 1.75 g, 99% | CS(=O)(=O)O[C@@H](C(=O)OC)C | C5H10O5S
